US08304419B2
Step D: 2-amino-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide
Lindlar Catalyst (0.167 g, 0.078 mmol) was added to a suspension of 2-azido-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (0.824 g, 1.569 mmol) in ethyl acetate (30 mL) in a pressure vessel. The vessel was evacuated and flushed with nitrogen, then evacuated and filled with hydrogen (50 psi). The reaction mixture was stirred for 7 h, then filtered through celite. The filtrate was evaporated to dryness and the residue was triturated with ethanol and dried under vacuum to give the title compound (0.350 g, 44%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.95 (br. s., 1H), 7.80 (s, 1H), 7.76 (t, 1H), 7.60 (d, 1H), 7.48 (s, 1H), 7.42 (m, 1H), 7.26 (t, 1H), 5.79 (br. s., 2H), 4.45 (d, 2H). ES MS m/z 498 (M−H).

reactant | 2-azido-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 1.569 mmol, 0.824 g | N(=[N+]=[N-])C=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Br)OC1=CC(=CC(=C1)C#N)Cl)F | C18H9BrCl2FN7O2
catalyst | Lindlar Catalyst | 0.078 mmol, 0.167 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-N-({4-bromo-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.350 g, 44% | NC=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Br)OC1=CC(=CC(=C1)C#N)Cl)F | C18H11BrCl2FN5O2
